US06891066B2
Step C: Preparation of 3,4-difluoro-2-[2-fluoro-4-(4-hydroxy-1-butynyl)anilinol-N-(2-hydroxyethoxy)benzamide
The title compound was prepared by reaction of 3,4-difluoro-2-{2-fluoro-4-[4-(tetrahydro-2H-pyran-2-yloxy)-1-butynyl]anilino} benzoic acid with CDI and 2-(aminooxy)ethanol by the general procedure of Example 1, Step E, then purified by column chromatography on silica gel (50% EtOAc/PE as eluant) to give 3,4-difluoro-2-{2-fluoro-4-[4-(tetrahydro-2H-pyran-2-yloxy)-1-butynyl]anilino}-N-(2-hydroxyethoxy)benzamide as a viscous transparent oil which was immediately dissolved in EtOH and treated with 1 M HCl according to the general procedure of Example 10, Step D. Purification of the resulting oil was carried out by filtration through a plug of silica gel (EtOAc as eluant) to give 3,4-difluoro-2-[2-fluoro-4-(4-hydroxy-1-butynyl)anilino]-N-(2-hydroxyethoxy)benzamide as a pale yellow crystalline solid (51%); m.p. (EtOAc/Et2O) 126-129° C. 1H NMR [400 MHz, (CD3)2SO] δ 11.82 (br s, 1 H), 8.85 (br s, 1 H), 7.45-7.39 (m, 1 H), 7.25-7.17 (m, 2 H), 7.07 (dd, J=8.3, 1.4 Hz, 1 H), 6.78 (dd, J=8.8, 8.8,4.7 Hz, 1 H), 4.88 (t, J=5.6 Hz, 1 H), 4.73 (br s, 1 H), 3.85 (t, J=4.8 Hz, 2 H), 3.59-3.53 (m, 4 H), 2.53 (t, J=6.9 Hz, 1 H). Anal. calcd. for C19H17F3N2O4.0.25Et2O: C, 58.2; H, 4.8; N, 6.8. Found C, 58.1; H, 4.8; N, 7.1.

reactant | 3,4-difluoro-2-{2-fluoro-4-[4-(tetrahydro-2H-pyran-2-yloxy)-1-butynyl]anilino} benzoic acid | FC=1C(=C(C(=O)O)C=CC1F)NC1=C(C=C(C=C1)C#CCCOC1OCCCC1)F | C22H20F3NO4
reactant | CDI | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 2-(aminooxy)ethanol | NOCCO | C2H7NO2
product | 3,4-difluoro-2-{2-fluoro-4-[4-(tetrahydro-2H-pyran-2-yloxy)-1-butynyl]anilino}-N-(2-hydroxyethoxy)benzamide | FC=1C(=C(C(=O)NOCCO)C=CC1F)NC1=C(C=C(C=C1)C#CCCOC1OCCCC1)F | C24H25F3N2O5
